US09216991B2
Intermediate 28: 4-Iodo-1-(1-oxa-spiro[2.5]oct-6-yl)-1H-pyrazole
2-Methyl-propan-2-ol potassium (466 mg; 4.15 mmol; 1.2 eq.) was added in one portion to a solution of 4-(4-Iodo-pyrazol-1-yl)-cyclohexanone (1.02 g; 3.50 mmol; 1.0 eq.) and trimethylsulfoxonium chloride (531 mg; 4.13 mmol; 1.2 eq.) in DMSO (50 mL). The reaction mixture was stirred at RT for 16 h. It was then poured into EtOAc. Organic phase was separated and washed with brine (three times), dried over magnesium sulfate, filtered and concentrated to give the title compound a white solid (813 mg, 76%). 1H NMR (300 MHz, DMSO) δ 8.01 (d, J=0.5 Hz, 1H), 7.52 (d, J=0.5 Hz, 1H), 4.41-4.26 (m, 1H), 2.66 (s, 2H), 2.13-1.85 (m, 6H), 1.34-1.21 (m, 2H). MS (ESI+): 305.1.

reactant | 2-Methyl-propan-2-ol potassium | 4.15 mmol, 466 mg, 1.2 eq. | [K].CC(C)(C)O
reactant | 4-(4-Iodo-pyrazol-1-yl)-cyclohexanone | 3.50 mmol, 1.02 g, 1.0 eq. | IC=1C=NN(C1)C1CCC(CC1)=O | C9H11IN2O
reactant | trimethylsulfoxonium chloride | 4.13 mmol, 531 mg, 1.2 eq. | [Cl-].C[S+](=O)(C)C
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 4-Iodo-1-(1-oxa-spiro[2.5]oct-6-yl)-1H-pyrazole | IC=1C=NN(C1)C1CCC2(CO2)CC1 | C10H13IN2O
